Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Thrombin / Nortriptyline
 
Attending: ___.
 
Chief Complaint:
ureteral stone of transplanted kidney
 
Major Surgical or Invasive Procedure:
___: ureteroscopy, unsuccessful (attempted) laser 
lithotripsy of transplanted kidney in right pelvis
___: PCNU tube placement by interventional radiology
___: PCNU exchange/repositioning by interventional 
radiology
 
History of Present Illness:
___ y/o male with history of IgA nephropathy, s/p renal 
transplant ___ yrs ago, subsequently with nephrolithiasis and 
partially obstructing stones s/p nephroureteral stent placement 
in ___. Returns for planned definitive ureteroscopy which was 
attempted on ___. Unfortunately access was lost to the 
transplant kidney in the course of the procedure and laser 
lithotripsy was unable to be performed. The patient was admitted 
to the urology service and ___ consultation obtained for PCNU 
placement with a plan for interval antegrade ureteroscopy.
 
Past Medical History:
- IgA nephropathy, ESRD, s/p renal transplant
- HTN
 -obesity
- hypothyroidism
- peripheral neuropathy
 
Social History:
___
Family History:
Father had ESRD s/p kidney transplant (not IgA nephropathy).  
Mother is healthy.

 
Physical Exam:
exam on discharge:

- AAOx4, NAD, obese young adult male resting comfortably in bed
- skin WWP
- breathing unlabored on RA
- abd soft, NT, ND with PCNU tube in RLQ to gravity
- no CVAT
 
Pertinent Results:
___ 01:50PM BLOOD WBC-6.7 RBC-4.66 Hgb-11.9* Hct-37.9* 
MCV-81* MCH-25.5* MCHC-31.4* RDW-13.7 RDWSD-39.8 Plt ___
___ 07:23AM BLOOD WBC-6.9 RBC-4.33* Hgb-10.9* Hct-35.3* 
MCV-82 MCH-25.2* MCHC-30.9* RDW-13.5 RDWSD-39.7 Plt ___

___ 10:45AM BLOOD Glucose-91 UreaN-27* Creat-1.5* Na-141 
K-5.1 Cl-111* HCO3-18* AnGap-17
___ 07:23AM BLOOD Glucose-102* UreaN-29* Creat-1.7* Na-140 
K-4.9 Cl-109* HCO3-17* AnGap-19
___ 07:10AM BLOOD Glucose-93 UreaN-22* Creat-1.5* Na-141 
K-4.5 Cl-109* HCO3-20* AnGap-17
___ 01:15PM BLOOD Glucose-175* UreaN-23* Creat-1.9* Na-137 
K-3.9 Cl-105 HCO3-19* AnGap-17
___ 05:54AM BLOOD Glucose-95 UreaN-17 Creat-1.6* Na-140 
K-4.4 Cl-111* HCO3-20* AnGap-13

___ 11:56 am FOREIGN BODY      RIGHT URETERAL STENT TIPS. 

                            **FINAL REPORT ___

   WOUND CULTURE (Final ___:    NO GROWTH. 

___ 12:07 pm URINE     Site: CYSTOSCOPY
      RIGHT RENAL PELVIC URINE FROM TRANSPLANT KIDNEY. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 11:24 am URINE     Site: CYSTOSCOPY      BLADDER URINE. 


                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Mr. ___ was admitted to the urology service and 
Interventional Radiology consultation requested. After obtaining 
clearance from the Transplant Surgery service, a right PCNU tube 
was placed on the afternoon ___ (HD 2). We additionally 
consulted transplant nephrology who recommended holding his 
furosemide and ___ in the setting of his acutely elevated 
creatinine. The morning after PCNU placement, his Foley catheter 
was removed and the PCNU capped. Unfortunately he developed 
severe pelvic pain and on evaluation was found to have a 
displacement of his PCNU, which had been pulled back such that 
there was no functioning ureteral component. A Foley catheter 
placed from below yielded no urine and his Cr climbed to 1.9 
from 1.5. The PCN tube was uncapped, draining a large amount of 
urine, and the patient experienced relief of his discomfort with 
an improvement of his Cr to 1.6. He was taken back by ___ the 
following day ___, HD 3) for replacement and repositioning of 
the PCNU by ___. He was discharged home that afternoon in good 
condition, with instructions to follow up with his nephrologist 
for a creatinine check in ___ days and a plan to return for a 
definitive antegrade stone procedure in two to four weeks.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. Mycophenolate Mofetil 1000 mg PO BID 
3. PredniSONE 5 mg PO DAILY 
4. Pregabalin 75 mg PO BID 
5. Tacrolimus 1 mg PO Q12H 
6. Tamsulosin 0.4 mg PO DAILY 
7. Valsartan 160 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. Famotidine 20 mg PO DAILY:PRN dyspepsia 
10. Cinacalcet 30 mg PO DAILY 
11. Amoxicillin 2 g PO PREOP dental procedures 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
4.  Senna 8.6 mg PO QHS 
RX *sennosides 8.6 mg 1 tablet by mouth at bedtime Disp #*15 
Tablet Refills:*0 
5.  Valsartan 80 mg PO DAILY  
6.  Amoxicillin 2 g PO PREOP dental procedures  
7.  Cinacalcet 30 mg PO DAILY  
8.  Famotidine 20 mg PO DAILY:PRN dyspepsia  
9.  Furosemide 20 mg PO DAILY  
10.  Mycophenolate Mofetil 1000 mg PO BID  
11.  PredniSONE 5 mg PO DAILY  
12.  Pregabalin 75 mg PO BID  
13.  Tacrolimus 1 mg PO Q12H  
14.  Tamsulosin 0.4 mg PO DAILY  
15.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
nephrolithiasis of transplanted kidney

 
Discharge Condition:
Mental Status: Clear and coherent.
 
Discharge Instructions:
___ ___

PCNL & NEPHROLITHIASIS:

-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.

-The kidney stone may or may not have been removed AND/or there 
may fragments/others still in the process of passing.

-You may experience some pain associated with spasm of your 
ureter.; This is normal. Take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-No vigorous physical activity or sports for 4 weeks, including 
sexual.  Avoid lifting/twistin/bending/pulling/pushing items 
weighing more than a ___ pounds. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and available over the counter. 
The generic name is DOCUSATE SODIUM. It is recommended that you 
use this medication.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

IF YOU ARE DISCHARGED HOME WITH A FOLEY CATHETER:
-Please refer to the provided nursing instructions and handout 
on Foley catheter care, waste elimination and leg bag usage.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
have anyone else other than your Surgeon remove your Foley for 
any reason.

-Wear Large Foley bag for majority of time, leg bag is only for 
short-term when leaving house.

-IF you are discharged with the PERCUTANEOUS NEPHROSTOMY (PCN) 

-Please refer to the provided nursing instructions and handout 
on PCN care, waste elimination, dressing changes. 

PERCUTANEOUS NEPHROSTOMY (PCN) TUBE INSTRUCTIONS FOR CARE---FOR  
FAMILY:

Please leave PCN tube to external gravity drainage. 

Catheter flushing: If there are excessive blood clots or debris 
or thick urine within the connecting tubing, this can be gently 
flushed as needed to promote clearing. Use normal saline filled 
syringes provided by nursing. 

Change every 3 days, if soiled/saturated, as needed: Gently 
cleanse around the skin entry site of the catheter with gentle 
soap w/ warm water. Dry and apply gauze dressing.

Catheter security: a) EVERYDAY you must check to be sure the 
catheter, the connecting tubing and the drainage bag are 
securely attached to the patient and are not kinked. b) If the 
catheter appears to be pulling "out", please notify 
Interventional Radiology. 

c) If the catheter pulls out, please notify Interventional 
Radiology within 8 hours. SAVE THE CATHETER for inspection--DO 
NOT throw
it away.

Call Interventional Radiology/Angio for ANY catheter related 
questions or problems. ___ or Fellow/Resident (pager# ___
 
Followup Instructions:
___